US04766115
180 ml of 50% sodium hydroxide solution are treated at about 60° C. in sequence with 7.7 g of cyanamide, 1.3 g of tricaprylmethylammonium chloride, 360 ml of benzene and 62 g of 2,2'-bis(bromomethyl)-biphenyl, and the mixture is stirred at 60°-70° C. for 6 hours. After cooling the reaction mixture this is transferred to a separating funnel and shaken with 50 ml of methylene chloride, whereby the separated product is taken up in the methylene chloride phase. The aqueous phase is back-extracted twice with methylene chloride. The combined extracts are subsequently washed with water, dried over anhydrous sodium sulphate and evaporated, and the residue is taken up in 100 ml of toluene and the solution is heated to reflux temperature, filtered and treated at about 50° C. with 200 ml of tert.-butyl methyl ether. Finally, the crystals which are precipitated by ice-cooling are filtered off under suction and dried. In this manner there is obtained pure 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile, m.p. 121°-124° C.

reactant | sodium hydroxide | 180 ml | [OH-].[Na+]
reactant | cyanamide | 7.7 g | N#CN | CH2N2
reactant | benzene | 360 ml | C1=CC=CC=C1 | C6H6
reactant | 2,2'-bis(bromomethyl)-biphenyl | 62 g | BrCC1=C(C=CC=C1)C1=C(C=CC=C1)CBr | C14H12Br2
catalyst | tricaprylmethylammonium chloride | 1.3 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
